US06013662
106.1 g (0.418 mol) of iodine in 1.1 dm3 of tetrahydrofuran were added dropwise to a solution of 85 g (0.209 mol) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-(2-methoxyphenyl)octahydroisoindole-3a-carboxylate in 2 dm3 of tetrahydrofuran. After addition of 2 dm3 of ethyl acetate, the organic phases were washed with two times 1 dm3 of a saturated aqueous sodium hydrogencarbonate solution, washed with two times 1 dm3 of a saturated aqueous sodium thiosulphate solution, then dried over magnesium sulphate and concentrated under reduced pressure. After purification by chromatography on silica gel (230-400 mesh), elution being carried out with a cyclohexane/ethyl acetate (95/05 by volume) mixture, 51 g (48%) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate were obtained in the form of a brown oil, the characteristics of which were as follows:

reactant | iodine | 0.418 mol, 106.1 g | II | I2
reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono-4-(2-methoxyphenyl)octahydroisoindole-3a-carboxylate | 0.209 mol, 85 g | COC(=O)C12CN(CC2C(CCC1C1=C(C=CC=C1)OC)=NN)CC1=CC=CC=C1 | C24H29N3O3
reactant | ethyl acetate | 2 dm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.1 dm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 dm3 | O1CCCC1 | C4H8O
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 51 g, 48% | COC(=O)C12CN(CC2C(=CCC1C1=C(C=CC=C1)OC)I)CC1=CC=CC=C1 | C24H26INO3
